US05380724
1-(1-Adamantyl)-4-amidinopiperazine hydroiodide
The title compound was prepared as described for 1-formylpiperazine in Example 1 of the published European patent application No. 39,190, starting with 1-(1-adamantyl)piperazine and S-methyl-isothiourea hydroiodide, mp. 278°-280° C., yield: 72.3 %.

reactant | 1-formylpiperazine | C(=O)N1CCNCC1 | C5H10N2O
reactant | 1-(1-adamantyl)piperazine | C12(CC3CC(CC(C1)C3)C2)N2CCNCC2 | C14H24N2
reactant | S-methyl-isothiourea hydroiodide | I.CSC(N)=N
product | 1-(1-Adamantyl)-4-amidinopiperazine hydroiodide | yield: 72.3 % | I.C12(CC3CC(CC(C1)C3)C2)N2CCN(CC2)C(N)=N | InChI=1S/C15H26N4.HI/c16-14(17)18-1-3-19(4-2-18)15-8-11-5-12(9-15)7-13(6-11)10-15;/h11-13H,1-10H2,(H3,16,17);1H
